US06387940B1
1-Benzyl-3-(2-pyrimidyl)indazole
200 mg of 1-benzyl-3-trimethylstannylindazole (crude product, 70% according to GC), 35 mg of 2-chloropyrimidine (0.30 mmol) and 29 mg (0.025 mmol) of Pd(PPh3)4 in 2.5 ml of toluene were heated under reflux overnight in an argon atmosphere. The mixture was cooled to room temperature, saturated ammonium chloride solution was added and the mixture was extracted with ethyl acetate. The organic phase was dried over magnesium sulphate and freed from the solvent on a rotary evaporator. Purification was carried out by chromatography over aluminium oxide using cyclohexane/ethyl acetate as the eluent (gradient from 10:1 to 1:1).

reactant | 1-benzyl-3-trimethylstannylindazole | 200 mg | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)[Sn](C)(C)C
reactant | 2-chloropyrimidine | 0.30 mmol, 35 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.025 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Benzyl-3-(2-pyrimidyl)indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C1=NC=CC=N1 | C18H14N4
